US06586613B1
1-(4-Fluorophenyl)-3-(4-trifluoromethylphenyl)-propen-3-one
8 l of methylcyclohexane are initially charged and 3000 g of 4-fluorobenzaldehyde, 5000 g of 4-trifluoromethylacetophenone and 150 ml of conc. hydrochloric acid are added. The mixture is distilled azeotropically for approximately 8 hours until no more water separates off. After cooling to 10 to 15° C., the precipitated solid is filtered off with suction and washed with cold methylcyclohexane.

reactant | methylcyclohexane | 8 l | CC1CCCCC1 | C7H14
reactant | 4-fluorobenzaldehyde | 3000 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-trifluoromethylacetophenone | 5000 g | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
solvent | hydrochloric acid | 150 ml | Cl | ClH
product | 1-(4-Fluorophenyl)-3-(4-trifluoromethylphenyl)-propen-3-one | FC1=CC=C(C=C1)C=CC(=O)C1=CC=C(C=C1)C(F)(F)F | C16H10F4O
